US08748624B2
STEP A: Ethyl 3-(5-bromopicolinamido)propanoate
Solid HATU (3.8 g, 9.9 mmol) was added to a THF solution (100 mL) of 5-bromopicolinic acid (2.0 g, 9.9 mmol), i-Pr2NEt (5.2 mL, 29.7 mmol), and (3-alanine ethyl ester hydrochloride (1.7 g, 10.9) and the resulting mixture was warmed to 45° C. After 16 h the resulting mixture was diluted with EtOAc, washed with water and brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | HATU | 9.9 mmol, 3.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | 5-bromopicolinic acid | 9.9 mmol, 2.0 g | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | i-Pr2NEt | 29.7 mmol, 5.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 3-(5-bromopicolinamido)propanoate | BrC=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C11H13BrN2O3
